US07129235B2
1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-one
2-Chloro-3-(trifluoromethyl)pyridine (11.92 g, 65.7 mmol)), K2CO3(19.10 g, 138 mmol), and 1,4-dioxa-8-azaspiro[4.5]decane (8.85 mL, 69.0 mmol) were combined in DMSO (65 mL) and stirred at 100° C. for 3 hours. The mixture was treated with additional 1,4-dioxa-8-azaspiro[4.5]decane (2.0 mL, 16 mmol), stirred for 2 hours, treated with additional 1,4-dioxa-8-azaspiro[4.5]decane (1.0 mL, 7.8 mmol), and stirred for 1 hour. The mixture was diluted with diethyl ether (200 mL), washed with water (250 mL), washed with brine (100 mL), dried (Na2SO4), filtered, and the filtrate was concentrated under reduced pressure. The residue was dissolved in concentrated HCl (25 mL), stirred for 3 hours, basified with concentrated NH4OH, extracted with CH2Cl2, and the phases separated. The organic phase was dried (Na2SO4), filtered, and the filtrate concentrated under reduced pressure. The residue was purified via flash chromatography (20% to 40% diethyl ether/hexanes) to provide the title compound.

reactant | 2-Chloro-3-(trifluoromethyl)pyridine | 65.7 mmol, 11.92 g | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | K2CO3 | 138 mmol, 19.10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 69.0 mmol, 8.85 mL | O1CCOC12CCNCC2 | C7H13NO2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 16 mmol, 2.0 mL | O1CCOC12CCNCC2 | C7H13NO2
reactant | 1,4-dioxa-8-azaspiro[4.5]decane | 7.8 mmol, 1.0 mL | O1CCOC12CCNCC2 | C7H13NO2
solvent | DMSO | 65 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 1-[3-(trifluoromethyl)pyridin-2-yl]piperidin-4-one | FC(C=1C(=NC=CC1)N1CCC(CC1)=O)(F)F | C11H11F3N2O
